US06969728B2
4-[5-Benzyl-3-(4-chloro-phenyl)-[1,2,4]triazol-1-yl]-6-pyridin-2-yl-[1,3,5]triazin-2-ylamine (Compound 133)
To a solution of N-(4-chloro-thiobenzoyl)-2-phenyl-acetamide (0.536 g, 1.85 mmol) and sodium acetate (ca. 0.25 g) in 1:1 acetic acid/1,4-dioxane (30 mL) was added 4-hydrazino-6-pyridin-2-yl-[1,3,5]triazin-2-ylamine (0.376 g, 1.85 mmol). The solution was heated to 90° C. and stirred for 15 hours. The reaction mixture was allowed to cool to room temperature, and water (100 mL) was added. The precipitate was removed by filtration, triturated with hot ethanol (300 mL), and dried to provide 0.489 g (60%) of the product as a white solid: 1H NMR (DMSO-d6) δ 8.78 (d, J=4.3 Hz, 1H), 8.32 (d, J=6.1 Hz, 2H), 8.22 (d, J=7.8 Hz, 1H), 8.06 (d, J=8.5 Hz, 2H), 7.96 (dt, J=1.5, 7.8 Hz, 1H), 7.62-7.57 (m, 3H), 7.36-7.26 (m, 2H), 7.24-7.22 (m, 2H), 7.19-7.16 (m, 1H), 4.90 (s, 2H) ppm.

reactant | N-(4-chloro-thiobenzoyl)-2-phenyl-acetamide | 1.85 mmol, 0.536 g | ClC1=CC=C(C(=S)NC(CC2=CC=CC=C2)=O)C=C1 | C15H12ClNOS
reactant | sodium acetate | ca. 0.25 g | C(C)(=O)[O-].[Na+]
reactant | acetic acid 1,4-dioxane | 30 mL | C(C)(=O)O.O1CCOCC1
reactant | 4-hydrazino-6-pyridin-2-yl-[1,3,5]triazin-2-ylamine | 1.85 mmol, 0.376 g | N(N)C1=NC(=NC(=N1)C1=NC=CC=C1)N | C8H9N7
solvent | water | 100 mL | O | H2O
product | 4-[5-Benzyl-3-(4-chloro-phenyl)-[1,2,4]triazol-1-yl]-6-pyridin-2-yl-[1,3,5]triazin-2-ylamine | 0.489 g, 60% | C(C1=CC=CC=C1)C1=NC(=NN1C1=NC(=NC(=N1)C1=NC=CC=C1)N)C1=CC=C(C=C1)Cl | C23H17ClN8
